US06143764
N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-hydroxycarbonylphenyl)carboxamide [78]
{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-methoxycarbonylphenyl)carboxamide was dissolved in methanol (3 ml), 33% aqueous potassium hydroxide (1.5 ml) was added, and the admixture was stirred at room temperature for 2 hours. The reaction mixture was washed 2 times with ethyl acetate, and the water layer was neutralized with dilute hydrocholoric acid and extracted 2 times with chloroform. The chloroform layer was dried with sodium sulfate, and the solvent was then removed by reduced-pressure distillation to obtain 34 mg of the title compound (yield: 45%).

reactant | {4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-methoxycarbonylphenyl)carboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C(=O)OC | C26H22N2O6
reactant | potassium hydroxide | 1.5 ml | [OH-].[K+]
solvent | methanol | 3 ml | CO | CH4O
product | N-{4-[(6,7-Dimethoxy-4-quinolinyl)oxy]phenyl}-(4-hydroxycarbonylphenyl)carboxamide | 34 mg, yield: 45% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C(=O)O | C25H20N2O6
